data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4252,4866,[CH3:6][O:7][C:8](=[O:9])[C:10](=[O+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([O:7][CH3:6])=[O:9])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:11][C:12]1([CH3:13])[C:14]([CH3:15])=[O:16],water,298.15,32.069348052092856,4.700544352768667
1948,2158,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[NH+:18][C-:19]([CH3:20])[C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]([CH3:20])([C:21]#[N:22])[NH:18][C:17]3([C:15]([NH:14][CH3:13])=[O:16])[C:23](=[O:24])[O:25][CH3:26],water,298.15,13.29598973542509,-35.815079010190786
2694,2993,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([CH3:25])[N+:26]([CH3:27])=[C:28]([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([O:21][CH3:20])=[O:23])([CH3:25])[N:26]([CH3:27])[C:28]2([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,26.969154570027484,-27.383774555021443
2014,2237,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21]#[N:22])[O+:23]=[C:24]([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30].[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:24]([C:25]#[N:26])([C:27](=[O:28])[O:29][CH3:30])[O:23][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:21]#[N:22],water,298.15,6.862779941823316,-66.6817645960623
797,864,[CH3:10][C:11](=[O:12])[CH-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[C:19]#[N:20].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:16]([C:17]#[N:18])([C:19]#[N:20])[N:14]([CH3:15])[CH:13]3[C:11]([CH3:10])=[O:12],water,298.15,15.928127962211583,-32.654496539111044
502,549,[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[NH-:10][NH+:11]=[CH:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[NH:10][NH:11][CH:12]2[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,16.373182224357677,-33.092067160179326
3754,4292,[CH3:9][C:10]([CH3:11])=[N+:12]([CH3:13])[CH-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:12]([CH3:13])[C:10]1([CH3:9])[CH3:11],water,298.15,15.251721317858417,-32.86320820508589
751,813,[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]#[N:21])[n+:22]1[CH3:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7](=[O:8])[O:9][CH3:10]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[C:19]2([C:20]#[N:21])[O:18][C:16](=[O:17])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[N:22]2[CH3:23],water,298.15,20.28205068739024,-15.95594386706106
2160,2396,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14](=[O:15])[O:16][CH3:17])=[N+:18]([CH3:19])[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:18]([CH3:19])[C:13]3([C:11]([NH:10][CH3:9])=[O:12])[C:14](=[O:15])[O:16][CH3:17],water,298.15,41.10171868912389,-27.78359279091116
1689,1865,[CH3:18][O:19][C:20](=[O:21])[CH:22]=[O+:23][CH-:24][C:25]([CH3:26])=[O:27].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]2=[C:10]([C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH:24]([C:25]([CH3:26])=[O:27])[O:23][CH:22]2[C:20]([O:19][CH3:18])=[O:21],water,298.15,11.28835066651862,-63.35288221712202
1010,1100,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([CH3:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[CH3:23].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[N:19]([CH3:20])[C:21]2([CH3:22])[CH3:23],water,298.15,25.59997782603968,-27.99971540957885
